US04013650
1 ml of pyridine and 0.5 ml of phenylacetic acid chloride are added at 0° C, under a nitrogen atmosphere, to a suspension of 0.250 g of 7β-amino-3-methoxy-3-cephem-4-carboxylic acid diphenylmethyl ester in 25 ml of methyl chloride and the mixture is stirred for 30 minutes at this temperature. The reaction mixture is evaporated under reduced pressure; the residue is stirred for 10 minutes with 20 ml of a 1:1 mixture of dioxane and water and diluted with methylene chloride. The aqueous phase is separated off and extracted with methylene chloride. The combined organic phases are washed with a saturated aqueous sodium bicarbonate solution and a saturated aqueous sodium chloride solution, dried over sodium sulphate and evaporated under reduced pressure. The crude product is purified by means of preparative thin layer chromatography using, as the solvent, a 1:1 mixture of toluene and ethyl acetate. The zone visible under ultraviolet light of λ = 254 mμ (Rf~0.35) is eluted with a 4:1 mixture of acetone and methanol and gives 3-methoxy-7β-(α-phenylacetylamino)-3-cephem-4-carboxylic acid diphenylmethyl ester which is identical with the product obtainable by the process of Example 9.

reactant | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
reactant | phenylacetic acid chloride | 0.5 ml | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | 7β-amino-3-methoxy-3-cephem-4-carboxylic acid diphenylmethyl ester | 0.250 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2N)=O)OC | C21H20N2O4S
solvent | methyl chloride | 25 ml | CCl | CH3Cl
product | 3-methoxy-7β-(α-phenylacetylamino)-3-cephem-4-carboxylic acid diphenylmethyl ester | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2NC(CC2=CC=CC=C2)=O)=O)OC | C29H26N2O5S
